US09034861B2
Step 3: Synthesis of 3,6-difluoro-N1-(2-fluoro-4-iodophenyl)-5-methoxybenzene-1,2-diamine
A suspension of 2-fluoro-N-(2,5-difluoro-3-methoxy-6-nitrophenyl)-4-iodobenzeneamine (12.5 g, 29.5 mmol) in EtOH (200 mL) was heated at 70° C. to form a clear transparent solution and to this hot solution was added dropwise a freshly prepared solution of Na2S2O4 in water (15 g, 86 mmol, in 30 mL). The mixture was further heated for 1 h at 90° C. Upon cooling to room temperature the mixture was concentrated to remove ethanol under reduced pressure. The residue was diluted with ethyl acetate (25 mL), washed with water and brine, The organic layer was separated, dried over MgSO4 and concentrated under reduced pressure to yield off white solid (10.2 g, 88%). The solid was used as was in the next reaction without purification.

reactant | 2-fluoro-N-(2,5-difluoro-3-methoxy-6-nitrophenyl)-4-iodobenzeneamine | 29.5 mmol, 12.5 g | FC1=C(C=CC(=C1)I)NC1=C(C(=CC(=C1[N+](=O)[O-])F)OC)F | C13H8F3IN2O3
reactant | Na2S2O4 | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | water | 86 mmol, 30 mL, 15 g | O | H2O
solvent | EtOH | 200 mL | CCO | C2H6O
product | 3,6-difluoro-N1-(2-fluoro-4-iodophenyl)-5-methoxybenzene-1,2-diamine | 10.2 g, 88% | FC1=C(C(=C(C(=C1)OC)F)NC1=C(C=C(C=C1)I)F)N | C13H10F3IN2O
